US07402577B2
Step B: (17β)-6-Methylene-3-oxo-N-(4-trifluoromethylphenyl)-androst-4-ene-17-carboxamide (3-4)
A mixture of (17β)-6-(hydroxymethyl)-3-oxo-N-[4-(trifluoromethyl)phenyl]androst-4-ene-17-carboxamide (3-2 and 3-3) (0.57 g, 1.2 mmol) was dissolved in 15 mL 0.6N HCl in dioxane and stirred at rt. After 3 hr, it was diluted with a large excess of dioxane and stirred overnight. After removal of the solvent, the residue was dissolved in CHCl3 and washed with water, saturated NaHCO3 solution, and brine, then dried with MgSO4 and concentrated. The residue was purified by flash silica gel chromatography (0 to 50% EtOAc/hexane) to afford 3-4 as the desired product.

reactant | (17β)-6-(hydroxymethyl)-3-oxo-N-[4-(trifluoromethyl)phenyl]androst-4-ene-17-carboxamide | 1.2 mmol, 0.57 g | OCC1C[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2[C@]2(CCC(C=C12)=O)C)C(=O)NC1=CC=C(C=C1)C(F)(F)F | C28H34F3NO3
solvent | HCl | 0.6N, 15 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (17β)-6-Methylene-3-oxo-N-(4-trifluoromethylphenyl)-androst-4-ene-17-carboxamide | C=C1C[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2[C@]2(CCC(C=C12)=O)C)C(=O)NC1=CC=C(C=C1)C(F)(F)F | C28H32F3NO2
